2141-02-22 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.Oxygen saturations 80-90% on 6L NC and face tent
   2.Lasix gtt stopped for poor urine output and borderline hypotension.
   Home dose lasix also being held.
   3.Code status changed to DNR/DNI after conversation with patient with
   Russian interpreter present.  Daughter who is her HCP was called and
   left message to call back to notify her of change in code status.  Have
   not yet received a call back.
   4.Went to IR and had right perc nephrostomy tube placed given rising
   wbc worsening BUN/creatinine.
   5.Gave 250ml fluid for continued poor urine output and rising
   creatinine post perc nephro placement -> urine output responded so gave
   250ml bolus x2.  FeUREA 15%
   6.Urine culture with >100,000 proteus mirabilis
   7.Put back on BIPAP overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-2-22**] 02:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-22**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 60 (60 - 73) bpm
   BP: 97/46(58) {81/35(49) - 150/108(119)} mmHg
   RR: 20 (17 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    512 mL
                                                                    620 mL
   PO:
             TF:
   IVF:
                                                                    512 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                    366 mL
                                                                    152 mL
   Urine:
                                                                    366 mL
                                                                    152 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    146 mL
                                                                    468 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 458 (245 - 458) mL
   PS : 15 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 23 cmH2O
   SpO2: 91%
   ABG: 7.25/77/108/32/3
   Ve: 7.5 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Gen: lying awake, moaning
   Heart: regular, m/r/g
   Lungs: diffuse crackles bilat
   Abd: obese, soft NT/ND + BS
   Back: perc tube intact, scant drainage
   Ext: venous stasis changes bilat with mild erythema/pitting edema
   Skin: no obvious rashes
   Labs / Radiology
   174 K/uL
   9.8 g/dL
   130 mg/dL
   3.6 mg/dL
   32 mEq/L
   5.7 mEq/L
   73 mg/dL
   96 mEq/L
   140 mEq/L
   30.3 %
   17.5 K/uL
        [image002.jpg]
                             [**2141-2-20**]  08:45 PM
                             [**2141-2-21**]  03:50 AM
                             [**2141-2-21**]  04:07 AM
                             [**2141-2-21**]  08:02 AM
                             [**2141-2-21**]  09:31 AM
                             [**2141-2-21**]  03:14 PM
                             [**2141-2-21**]  08:45 PM
                             [**2141-2-22**]  03:48 AM
                             [**2141-2-22**]  05:21 AM
   WBC
   13.3
   18.4
   17.5
   Hct
   31.0
   32.7
   30.3
   Plt
   188
   193
   174
   Cr
   2.7
   3.2
   3.4
   3.6
   TropT
   0.04
   0.04
   0.06
   TCO2
   39
   38
   39
   35
   Glucose
   123
   119
   131
   130
   Other labs: CK / CKMB / Troponin-T:278/5/0.06, Ca++:8.2 mg/dL, Mg++:2.9
   mg/dL, PO4:7.4 mg/dL
   Imaging: [**2141-2-21**] CXR: The current study demonstrates no significant
   change in the cardiomediastinal silhouette with the presence of mild
   pulmonary edema and bibasal atelectasis. Pleural effusions are most
   likely present, bilateral. The patient head
   obscures the lung apices. The pacemaker leads terminate in right atrium
   and right ventricle. The cardiomegaly is massive and unchanged.
   [**2141-2-20**] CT ABD/PELV:
   1. Obstructing 5 x 4 x 10 mm stone within the mid to upper right
   ureter, with associated hydroureter and hydronephrosis.
   2. Unchanged appearance of numerous cystic lesions within bilaterally
   atrophic kidneys.
   3. Unchanged appearance of 2.4 x 2.6 cm right adrenal nodule, most
   likely an
   adenoma given stability, despite intermediate attenuation on current
   study.
   4. Unchanged anterolisthesis of L4 on L5.
   Microbiology: [**2141-2-20**] Blood Cx: pending x2
   [**2-20**] Urine Culture: >100,000 proteus mirabilis
   Assessment and Plan
 NEPHROLITHIASIS (KIDNEY STONES)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   80 yo F with hypercarbic respiratory failure [**12-19**] fluid overload, COPD,
   OSA, acute on chronic dCHF
   .
   # Hypercarbic Respiratory Acidosis: Admission gas: on 6l nc
   7.22/88/51----> 7.25/83/54 after 30 minutes on bipap. Likely
   multifactorial [**12-19**] volume overload, COPD, untreated OSA, diastolic
   failure.  Patient very reluctant to participate with BIPAP, when awake
   she pulls mask off.
   - ABG trend
   - cont BiPAP prn, b/l CO2 60s
   - did not tolerate lasix gtt yesterday
   - Cont zosyn for now, D/C vanco
   .
   # Acute on chronic diastolic CHF: Currently significantly fluid
   overloaded and signs of increased pulmonary congestion with crackles to
   top of lung fields posteriorly.   However, intravasc volume down.
   - hold diuresis for now given lack of response and tenuous BP
   - daily weight
   - monitor UOP
   - continue BB, asa, statin
   .
   # Hypotension: 94 systolic on admission, increase to 120's. Got 500cc
   bolus in ED. Infection possible as has stone but afebrile and no
   leukocytosis, will cover broadly with vanc/zosyn. Narrow once ucx
   returns. Blood cx pending.   [**Month (only) 60**] be volume depleted
   - will give gentle NS bolus and titrate to SBP 90-100s and UOP
   - hold antihypertensives
   .
   # UTI/Pyelo: Likely secondary to obstructing stone. U/A dirty.  Cont to
   increase despite nephrostomy.  Urine growing proteus
   -follow up urine culture  -> proteus
   -on zosyn for proteus, vanco D/Cd
   -per Urology, no surgery now given resp failure, will need to be
   re-addressed in AM as this is acute hydronephrosis
   - s/p nephrostomy tube by IR, will f/u
   .
   # Chronic Renal Failure: Baseline 2-2.5, on admission 2.1.  Cont rise
   despite nephrostomy tube.  ? pre-renl
   - trend
   - f/u with urology/IR
   - trial of IVF today
   - Consider renal c/s if cont to worsen despite functioning nephrostomy
   .
   # Atrial fibrillation: Rate controlled
   -continue dig, check level
   -continue asa and lopressor
   .
   # COPD: on oxygen at home 5L
   - switch spiriva to ipratropium
   - albuterol nebs
   .
   # Hypothyroidism: continue levothyroxine
   .
   # FEN: replete lytes prn, NPO
   .
   # PPX:  heparin
   .
   # Code status: DNR/DNI, discussed with patient [**2-21**] and understands
   consequences of this
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-2-20**] 08:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2141-2-22**] 17:12 ------

2141-02-23 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2141-2-22**] 08:00 AM
 NON-INVASIVE VENTILATION - START [**2141-2-22**] 10:00 AM
 NON-INVASIVE VENTILATION - STOP [**2141-2-22**] 01:00 PM
 NON-INVASIVE VENTILATION - START [**2141-2-22**] 03:00 PM
   - IR recs: cont current management, leukocytosis to be expected
   - Urology: cont nephrostomy tube, follow up with urology as outpt
   - Given 250ml NS with little effect in UOP
   - Given low dose morphine for pain and dyspnea
   - Intermittently on BiPAP, occationally pulling off and dropping sats
   to low 80s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-2-22**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2141-2-23**] 02:20 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-2-22**] 04:00 PM
   Morphine Sulfate - [**2141-2-22**] 04:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-23**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 62 (60 - 66) bpm
   BP: 105/41(57) {84/31(45) - 124/48(90)} mmHg
   RR: 27 (17 - 27) insp/min
   SpO2: 88%
   Heart rhythm: A Paced
             Total In:
                                                                  2,040 mL
                                                                    126 mL
   PO:
                                                                    450 mL
             TF:
   IVF:
                                                                  1,590 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    370 mL
   Urine:
                                                                    625 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,415 mL
                                                                   -244 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (320 - 594) mL
   PS : 15 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 24 cmH2O
   SpO2: 88%
   ABG: ///30/
   Ve: 5.2 L/min
   Physical Examination
   Gen: A&O x3, Russian speaking
   HEENT: NC AT PERRL EOMI
   Neck: obese
   CV: diffuicult to auscultate over vocal noises, regular rate and
   rhythm, 2/6 systolic murmur
   Lungs: scattered ronchi/crackles L>R, no wheezing
   Abd: obese, soft, NT BS+
   Ext: erythema of LE bilaterally/symmetric, no open lesions
   Labs / Radiology
   159 K/uL
   9.1 g/dL
   99 mg/dL
   3.6 mg/dL
   30 mEq/L
   5.2 mEq/L
   81 mg/dL
   97 mEq/L
   139 mEq/L
   27.9 %
   11.8 K/uL
        [image002.jpg]
                             [**2141-2-21**]  03:50 AM
                             [**2141-2-21**]  04:07 AM
                             [**2141-2-21**]  08:02 AM
                             [**2141-2-21**]  09:31 AM
                             [**2141-2-21**]  03:14 PM
                             [**2141-2-21**]  08:45 PM
                             [**2141-2-22**]  03:48 AM
                             [**2141-2-22**]  05:21 AM
                             [**2141-2-22**]  12:54 PM
                             [**2141-2-23**]  04:20 AM
   WBC
   13.3
   18.4
   17.5
   11.8
   Hct
   31.0
   32.7
   30.3
   29.8
   27.9
   Plt
   188
   193
   174
   159
   Cr
   2.7
   3.2
   3.4
   3.6
   3.6
   3.6
   TropT
   0.04
   0.04
   0.06
   TCO2
   38
   39
   35
   Glucose
   123
   119
   131
   130
   99
   Other labs: CK / CKMB / Troponin-T:278/5/0.06, Ca++:8.1 mg/dL, Mg++:2.8
   mg/dL, PO4:6.5 mg/dL
   Imaging: no new imaging
   Microbiology: [**2140-2-22**] Urine Cx: no growth
   [**2140-2-21**] Urine Cx: pansensitive proteus mirabilis
   [**2141-2-20**] Blood Cx: ngtd
   Assessment and Plan
 NEPHROLITHIASIS (KIDNEY STONES)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   80 yo F with hypercarbic respiratory failure [**12-19**] fluid overload, COPD,
   OSA, acute on chronic dCHF admitted with right flank pain due to
   nephrolithiasis.
   .
   #Nephrolithiasis/UTI: s/p right perc nephrostomy tube placement by IR,
   with WBC trending down.  UTI from admission with pansensitive proteus
   mirabilis.
   -d/c zosyn, start ciprofloxacin to complete 14 day course
   -outpt f/u with urololgy
   -f/u IR reccs -> nephrostomy tube functioning properly, 300 cc output
   overnight
   .
   #Acute on chronic renal failure:  Likely multifactorial [**12-19**] hypotension
   on admission, UTI/obstructive nephropathy, congestive heart
   failure/severe OSA with poor cardiac output.  Creatinine stabilized at
   3.6 over last 24 hours.  Have been holding diuretics x2 days.
   -encourage po intake
   -continue holding lasix for now, hold additional IVF
   -renally dose all meds
   .
   # Acute on chronic diastolic CHF- continue to hold diuretics given
   renal failure, will be tenuous balance given severe dchf and pulmonary
   edema as well as poor renal function.
   - daily weight
   - monitor UOP -> little to no response to IVF boluses
   - continue BB, asa, statin
   -continue BIPAP while sleeping to decrease RV dysfunction.
   .
   # Hypercarbic Respiratory Acidosis: Baseline pCO2 appears to be in the
   70
s likely [**12-19**] COPD, untreated OSA, diastolic failure.  Patient very
   reluctant to participate with BIPAP, when awake she pulls mask off.
   Does well when on bipap overnight with improvement in oxygenation.
   - adjust BIPAP as indicated, b/l CO2 60s -70
   ..
   # Atrial fibrillation: Rate controlled, has been in sinus
   -continue dig, check level given renal dysfunction
   -continue asa and lopressor
   .
   # COPD: on oxygen at home 5L
   - switch spiriva to ipratropium
   - albuterol nebs
   .
   # Hypothyroidism: continue levothyroxine
   ICU Care
   Nutrition: cardiac, low salt diet
   Glycemic Control: well controlled, not requiring insulin
   Lines:
   18 Gauge - [**2141-2-20**] 08:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Code status: DNR/DNI
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   Her renal function and respiratory status are not showing any
   convincing signs of improvement. Goals of care will likely need to be
   readdressed soon. CMO is most appropriate in light of her multiple,
   severe, end-stage conditions.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2141-2-23**] 15:47 ------

2141-02-24 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   no overnight events, improved urine output (no IVF or lasix given)
   Continued to put out good urine from right perc nephrostomy tube
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-2-23**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-24**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 60 (60 - 68) bpm
   BP: 119/54(68) {94/33(46) - 123/60(70)} mmHg
   RR: 18 (18 - 29) insp/min
   SpO2: 94%
   Heart rhythm: A Paced
             Total In:
                                                                    980 mL
                                                                     72 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                    440 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,082 mL
                                                                    260 mL
   Urine:
                                                                  1,082 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -102 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 421 (359 - 640) mL
   PS : 15 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 25 cmH2O
   SpO2: 94%
   ABG: ///29/
   Ve: 4.6 L/min
   Physical Examination
   Gen: A&O x3, Russian speaking, sleeping awakens easily to voice
   HEENT: NC AT PERRL EOMI
   Neck: obese
   CV: diffuicult to auscultate over vocal noises, regular rate and
   rhythm, 2/6 systolic murmur
   Lungs: scattered ronchi/crackles L>R, no wheezing
   Abd: obese, soft, NT BS+
   Ext: erythema of LE bilaterally/symmetric, chronic venous stasis
   dermatitis,  no open lesions, trace pitting edema
   Labs / Radiology
   186 K/uL
   9.5 g/dL
   122 mg/dL
   3.5 mg/dL
   29 mEq/L
   4.9 mEq/L
   90 mg/dL
   97 mEq/L
   139 mEq/L
   29.2 %
   11.4 K/uL
        [image002.jpg]
                             [**2141-2-21**]  08:02 AM
                             [**2141-2-21**]  09:31 AM
                             [**2141-2-21**]  03:14 PM
                             [**2141-2-21**]  08:45 PM
                             [**2141-2-22**]  03:48 AM
                             [**2141-2-22**]  05:21 AM
                             [**2141-2-22**]  12:54 PM
                             [**2141-2-23**]  04:20 AM
                             [**2141-2-23**]  03:43 PM
                             [**2141-2-24**]  03:46 AM
   WBC
   18.4
   17.5
   11.8
   11.4
   Hct
   32.7
   30.3
   29.8
   27.9
   29.2
   Plt
   193
   174
   159
   186
   Cr
   3.2
   3.4
   3.6
   3.6
   3.6
   3.6
   3.5
   TropT
   0.04
   0.04
   0.06
   TCO2
   39
   35
   Glucose
   119
   131
   130
   99
   122
   Other labs: CK / CKMB / Troponin-T:278/5/0.06, Ca++:8.4 mg/dL, Mg++:3.1
   mg/dL, PO4:5.7 mg/dL
   Microbiology: [**2-20**] Urine Cx: pansensitive proteu mirabilis
   Assessment and Plan
 NEPHROLITHIASIS (KIDNEY STONES)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A/P: Ms. [**Known lastname 7320**] is an 80 yo F with hypercarbic respiratory failure
   [**12-19**] COPD, OSA, acute on chronic dCHF admitted with right flank pain due
   to nephrolithiasis.
   .
   #Nephrolithiasis/UTI: s/p right perc nephrostomy tube placement by IR,
   with WBC trending down and good urine output via nephro tube.  UTI from
   admission with pansensitive proteus mirabilis.
   -d/c zosyn, start ciprofloxacin to complete 14 day course
   -outpt f/u with urololgy to determine long term plan
   -f/u IR reccs -> nephrostomy tube functioning properly
   .
   #Acute on chronic renal failure:  Likely multifactorial [**12-19**] hypotension
   on admission, UTI/obstructive nephropathy, congestive heart
   failure/severe OSA with poor cardiac output.  Creatinine stabilized at
   3.5-3.6 over last 24 hours.  Have been holding diuretics since day of
   admission.
   -encourage po intake
   -continue holding lasix for now, hold additional IVF
   -renally dose all meds
   -monitor cr daily
   .
   # Acute on chronic diastolic CHF-Cor pulmonale with 4+TR and severe RV
   dysfunction [**12-19**] long standing untreated OSA as well as COPD.  Will
   continue to hold diuretics given renal failure, will be tenuous balance
   given severe dchf and pulmonary edema as well as poor renal function.
   - daily weight
   - monitor UOP
   - continue BB, asa, statin
   -continue BIPAP while sleeping to decrease RV dysfunction.
   .
   # Hypercarbic Respiratory Acidosis: Baseline pCO2 appears to be in the
   70
s likely [**12-19**] COPD, untreated OSA, diastolic failure.  Does well when
   on bipap while sleeping with improvement in oxygenation from O2 sats in
   the mid 80
s to low 90
s with bipap.
   - adjust BIPAP as indicated, b/l CO2 60s -70
   ..
   # Atrial fibrillation: Rate controlled, has been in sinus
   -continue dig, check level given renal dysfunction
   -continue asa and lopressor
   .
   # COPD: on oxygen at home 7L
   - switch spiriva to ipratropium
   - albuterol nebs
   .
   # Hypothyroidism: continue levothyroxine
   ICU Care
   Nutrition: cardiac, low salt diet
   Glycemic Control: well controlled, not requiring insulin
   Lines:
   18 Gauge - [**2141-2-20**] 08:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   Code status: DNR/DNI
   Communication : with daughter who is her HCP
   Disposition: ICU

2141-02-25 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2141-2-24**] 09:15 AM
   Continued to hold lasix and IVF
   Creatinine improved to 3.1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-2-22**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2141-2-23**] 10:00 AM
   Levofloxacin - [**2141-2-23**] 08:56 PM
   Ciprofloxacin - [**2141-2-24**] 08:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-2-25**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-25**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 65 (60 - 65) bpm
   BP: 121/48(65) {93/38(52) - 127/58(72)} mmHg
   RR: 24 (19 - 33) insp/min
   SpO2: 89%
   Heart rhythm: A Paced
                  Total In:
                                                                  1,220 mL
                                                                    350 mL
   PO:
                                                                    800 mL
                                                                    350 mL
   TF:
   IVF:
                                                                    420 mL
   Blood products:
   Total out:
                                                                    706 mL
                                                                    460 mL
   Urine:
                                                                    706 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    514 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: Standby
   FiO2: 100%
   SpO2: 89%
   ABG: ///29/
   Physical Examination
   Gen: A&O x3, Russian speaking, sleeping awakens easily to voice
   HEENT: NC AT PERRL EOMI
   Neck: obese
   CV: diffuicult to auscultate over vocal noises, regular rate and
   rhythm, 2/6 systolic murmur
   Lungs: scattered ronchi/crackles L>R, no wheezing
   Abd: obese, soft, NT BS+
   Ext: erythema of LE bilaterally/symmetric, chronic venous stasis
   dermatitis,  no open lesions, trace pitting edema
   Labs / Radiology
   186 K/uL
   9.9 g/dL
   98 mg/dL
   3.1 mg/dL
   29 mEq/L
   4.9 mEq/L
   92 mg/dL
   98 mEq/L
   141 mEq/L
   31.5 %
   9.4 K/uL
        [image002.jpg]
                             [**2141-2-21**]  09:31 AM
                             [**2141-2-21**]  03:14 PM
                             [**2141-2-21**]  08:45 PM
                             [**2141-2-22**]  03:48 AM
                             [**2141-2-22**]  05:21 AM
                             [**2141-2-22**]  12:54 PM
                             [**2141-2-23**]  04:20 AM
                             [**2141-2-23**]  03:43 PM
                             [**2141-2-24**]  03:46 AM
                             [**2141-2-25**]  05:18 AM
   WBC
   18.4
   17.5
   11.8
   11.4
   9.4
   Hct
   32.7
   30.3
   29.8
   27.9
   29.2
   31.5
   Plt
   193
   174
   159
   186
   186
   Cr
   3.2
   3.4
   3.6
   3.6
   3.6
   3.6
   3.5
   3.1
   TropT
   0.04
   0.04
   0.06
   TCO2
   35
   Glucose
   119
   131
   130
   99
   122
   98
   Other labs: CK / CKMB / Troponin-T:278/5/0.06, Ca++:8.6 mg/dL, Mg++:3.1
   mg/dL, PO4:5.4 mg/dL
   MICRO:
   Urine cx [**2-21**]: Negative
   IMAGES: None
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 NEPHROLITHIASIS (KIDNEY STONES)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A/P: Ms. [**Known lastname 7320**] is an 80 yo F with hypercarbic respiratory failure
   [**12-19**] COPD, OSA, acute on chronic dCHF admitted with right flank pain due
   to nephrolithiasis.
   .
   #Nephrolithiasis/UTI: s/p right perc nephrostomy tube placement by IR,
   with WBC trending down and good urine output via nephro tube.  UTI from
   admission with pansensitive proteus mirabilis.
   -continue ciprofloxacin to complete 14 day course
   -outpt f/u with urololgy to determine long term plan
   -f/u IR reccs -> nephrostomy tube functioning properly
   .
   #Acute on chronic renal failure:  Likely multifactorial [**12-19**] hypotension
   on admission, UTI/obstructive nephropathy, congestive heart
   failure/severe OSA with poor cardiac output.  Creatinine improved to
   3.1this morning.  Have been holding diuretics since day of admission.
   -encourage po intake
   -continue holding lasix for now, hold additional IVF
   -renally dose all meds
   -monitor cr daily
   -allow to take po
   .
   # Acute on chronic diastolic CHF-Cor pulmonale with 4+TR and severe RV
   dysfunction [**12-19**] long standing untreated OSA as well as COPD.  Will
   continue to hold diuretics given renal failure, will be tenuous balance
   given severe dchf and pulmonary edema as well as poor renal function.
   - daily weight
   - monitor UOP
   - continue BB, asa, statin
   -continue BIPAP while sleeping to decrease RV dysfunction.
   .
   # Hypercarbic Respiratory Acidosis: Baseline pCO2 appears to be in the
   70
s likely [**12-19**] COPD, untreated OSA, diastolic failure.  Does well when
   on bipap while sleeping with improvement in oxygenation from O2 sats in
   the mid 80
s to low 90
s with bipap.
   - adjust BIPAP as indicated, b/l CO2 60s -70
   ..
   # Atrial fibrillation: Rate controlled, has been in sinus
   -continue dig, check level given renal dysfunction
   -continue asa and lopressor
   .
   # COPD: on oxygen at home 7L
   - switch spiriva to ipratropium
   - albuterol nebs
   .
   # Hypothyroidism: continue levothyroxine
   ICU Care
   Nutrition: cardiac diet as tolerated
   Glycemic Control: not requiring insulin
   Lines:
   20 Gauge - [**2141-2-25**] 02:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: not taking
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2141-2-25**] 15:31 ------

2141-02-25 10:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   continues to desaturate intermittently, requiring bipap as needed
   History obtained from Patient, Family / Friend, [**Hospital 228**] Medical
   records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-2-23**] 10:00 AM
   Levofloxacin - [**2141-2-23**] 08:56 PM
   Ciprofloxacin - [**2141-2-24**] 08:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-2-25**] 07:45 AM
   Other medications:
   senna, colace
   heparin 5000 tid
   albuterol nebs q 6
   paxil 10 po qday
   caacetate
   iron
   neurontin 300 qday
   asa 325
   lopressor 12.5 [**Hospital1 **]
   levoxyl
   digoxin 0.125 qod
   chlorhexadine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-25**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 64 (60 - 65) bpm
   BP: 125/51(67) {93/38(52) - 127/58(72)} mmHg
   RR: 27 (19 - 33) insp/min
   SpO2: 85%
   Heart rhythm: A Paced
                  Total In:
                                                                  1,220 mL
                                                                    450 mL
   PO:
                                                                    800 mL
                                                                    450 mL
   TF:
   IVF:
                                                                    420 mL
   Blood products:
   Total out:
                                                                    706 mL
                                                                    520 mL
   Urine:
                                                                    706 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    514 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (450 - 450) mL
   PS : 15 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 85%
   ABG: ///29/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Well nourished, fatigued/somnolent
   Cardiovascular: (S1: Normal), (S2: Normal), RV heave
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   186 K/uL
   98 mg/dL
   3.1 mg/dL
   29 mEq/L
   4.9 mEq/L
   92 mg/dL
   98 mEq/L
   141 mEq/L
   31.5 %
   9.4 K/uL
        [image002.jpg]
                             [**2141-2-21**]  09:31 AM
                             [**2141-2-21**]  03:14 PM
                             [**2141-2-21**]  08:45 PM
                             [**2141-2-22**]  03:48 AM
                             [**2141-2-22**]  05:21 AM
                             [**2141-2-22**]  12:54 PM
                             [**2141-2-23**]  04:20 AM
                             [**2141-2-23**]  03:43 PM
                             [**2141-2-24**]  03:46 AM
                             [**2141-2-25**]  05:18 AM
   WBC
   18.4
   17.5
   11.8
   11.4
   9.4
   Hct
   32.7
   30.3
   29.8
   27.9
   29.2
   31.5
   Plt
   193
   174
   159
   186
   186
   Cr
   3.2
   3.4
   3.6
   3.6
   3.6
   3.6
   3.5
   3.1
   TropT
   0.04
   0.04
   0.06
   TCO2
   35
   Glucose
   119
   131
   130
   99
   122
   98
   Other labs: CK / CKMB / Troponin-T:278/5/0.06, Ca++:8.6 mg/dL, Mg++:3.1
   mg/dL, PO4:5.4 mg/dL
   Microbiology: [**2-21**] ucx - negative
   Assessment and Plan
   80 yo F with DHF, pHTN, OSA, [**Doctor First Name **]; stone
 ALTERED MENTAL STATUS (NOT DELIRIUM): llikely related to poor
   respiratory status
    - bipap as needed
    - diuresis as needed
     - cont nebs
 NEPHROLITHIASIS (KIDNEY STONES)
    - s/p nephrotube
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
    - standing nebs
    - intermittent bipap
   5.history of Afib:
    - dig, asa, lopressor
    - dig levels wnl
    - no a/c
   6. hypothyroid:
    - levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2141-2-25**] 02:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :
   Total time spent: 30 minutes
   Patient is critically ill

2141-02-26 07:25:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   [**2141-2-25**]
   -Intermittently on BiPAP.  Continued to moan intermittently.  Was found
   to have dry nares with blood -> written for saline nasal spray
   -Responded well to ativan 1mg for agitation
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-2-23**] 10:00 AM
   Levofloxacin - [**2141-2-23**] 08:56 PM
   Ciprofloxacin - [**2141-2-25**] 08:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-2-25**] 09:54 PM
   Lorazepam (Ativan) - [**2141-2-25**] 11:30 PM
   Heparin Sodium (Prophylaxis) - [**2141-2-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-26**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 76 (60 - 76) bpm
   BP: 139/56(77) {80/38(55) - 164/68(97)} mmHg
   RR: 23 (15 - 31) insp/min
   SpO2: 77%
   Heart rhythm: A Paced
                  Total In:
                                                                  1,150 mL
                  PO:
                                                                    950 mL
                  TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    200 mL
   Urine:
                                                                  1,310 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -160 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 637 (290 - 637) mL
   PS : 15 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 24 cmH2O
   SpO2: 77%
   ABG: ///29/
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: altered
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Oriented (to): x1, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   183 K/uL
   9.7 g/dL
   88 mg/dL
   2.6 mg/dL
   29 mEq/L
   4.9 mEq/L
   96 mg/dL
   100 mEq/L
   143 mEq/L
   29.7 %
   7.9 K/uL
        [image002.jpg]
                             [**2141-2-21**]  03:14 PM
                             [**2141-2-21**]  08:45 PM
                             [**2141-2-22**]  03:48 AM
                             [**2141-2-22**]  05:21 AM
                             [**2141-2-22**]  12:54 PM
                             [**2141-2-23**]  04:20 AM
                             [**2141-2-23**]  03:43 PM
                             [**2141-2-24**]  03:46 AM
                             [**2141-2-25**]  05:18 AM
                             [**2141-2-26**]  03:55 AM
   WBC
   18.4
   17.5
   11.8
   11.4
   9.4
   7.9
   Hct
   32.7
   30.3
   29.8
   27.9
   29.2
   31.5
   29.7
   Plt
   193
   174
   159
   186
   186
   183
   Cr
   3.2
   3.4
   3.6
   3.6
   3.6
   3.6
   3.5
   3.1
   2.6
   TropT
   0.04
   0.06
   TCO2
   35
   Glucose
   119
   131
   130
   99
   122
   98
   88
   Other labs: CK / CKMB / Troponin-T:278/5/0.06, Ca++:8.7 mg/dL, Mg++:3.1
   mg/dL, PO4:4.4 mg/dL
   Imaging: none
   Microbiology: [**2-20**] pan [**Last Name (un) **] proteus mirabilis
   [**2-21**] nephrostomy tube
   ECG: none
   Assessment and Plan
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 NEPHROLITHIASIS (KIDNEY STONES)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A/P: Ms. [**Known lastname 7320**] is an 80 yo F with hypercarbic respiratory failure
   [**12-19**] COPD, OSA, acute on chronic dCHF admitted with right flank pain due
   to nephrolithiasis.
   .
   #Nephrolithiasis/UTI: s/p right perc nephrostomy tube placement by IR,
   with WBC trending down and good urine output via nephro tube.  UTI from
   admission with pansensitive proteus mirabilis.
   -continue ciprofloxacin to complete 14 day course, currently DAY [**5-30**]
   -outpt f/u with urololgy to determine long term plan
   -f/u IR reccs -> nephrostomy tube functioning properly
   .
   #Acute on chronic renal failure:  Likely multifactorial [**12-19**] hypotension
   on admission, UTI/obstructive nephropathy, congestive heart
   failure/severe OSA with poor cardiac output.  Creatinine improved to
   2.6 this morning.  Have been holding diuretics since day of
   admission.
   -encourage po intake
   -continue holding lasix for now, hold additional IVF
   -renally dose all meds
   -monitor cr daily
   -allow to take po
   .
   # Acute on chronic diastolic CHF-Cor pulmonale with 4+TR and severe RV
   dysfunction [**12-19**] long standing untreated OSA as well as COPD.  Will
   continue to hold diuretics given renal failure, will be tenuous balance
   given severe dchf and pulmonary edema as well as poor renal function.
   - daily weight
   - monitor UOP
   - continue BB, asa, statin
   -continue BIPAP while sleeping to decrease RV dysfunction.
   .
   # Hypercarbic Respiratory Acidosis: Baseline pCO2 appears to be in the
   70
s likely [**12-19**] COPD, untreated OSA, diastolic failure.  Does well when
   on bipap while sleeping with improvement in oxygenation from O2 sats in
   the mid 80
s to low 90
s with bipap.
   - adjust BIPAP as indicated, b/l CO2 60s -70
   .
   # Atrial fibrillation: Rate controlled, has been in sinus
   -continue dig, check level given renal dysfunction
   -continue asa and lopressor
   .
   # COPD: on oxygen at home 7L
   - switch spiriva to ipratropium
   - albuterol nebs
   .
   # Hypothyroidism: continue levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-2-25**] 02:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of the services provided. I agree with the note above,
   including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2141-2-26**] 17:49 ------

2141-02-26 10:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   intermittent bipap
   some aggitation, responded well to ativan
                   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-2-23**] 10:00 AM
   Levofloxacin - [**2141-2-23**] 08:56 PM
   Ciprofloxacin - [**2141-2-25**] 08:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-2-25**] 09:54 PM
   Lorazepam (Ativan) - [**2141-2-25**] 11:30 PM
   Heparin Sodium (Prophylaxis) - [**2141-2-26**] 12:00 AM
   Other medications:
   paxil
   lopressor
   levothyroxine
   digoxin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-26**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 65 (60 - 76) bpm
   BP: 112/51(65) {80/38(55) - 164/68(97)} mmHg
   RR: 26 (15 - 31) insp/min
   SpO2: 83%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,150 mL
                  PO:
                                                                    950 mL
                  TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    300 mL
   Urine:
                                                                  1,310 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -160 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 637 (290 - 637) mL
   PS : 15 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 24 cmH2O
   SpO2: 83%
   ABG: ///29/
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   183 K/uL
   88 mg/dL
   2.6 mg/dL
   29 mEq/L
   4.9 mEq/L
   96 mg/dL
   100 mEq/L
   143 mEq/L
   29.7 %
   7.9 K/uL
        [image002.jpg]
                             [**2141-2-21**]  03:14 PM
                             [**2141-2-21**]  08:45 PM
                             [**2141-2-22**]  03:48 AM
                             [**2141-2-22**]  05:21 AM
                             [**2141-2-22**]  12:54 PM
                             [**2141-2-23**]  04:20 AM
                             [**2141-2-23**]  03:43 PM
                             [**2141-2-24**]  03:46 AM
                             [**2141-2-25**]  05:18 AM
                             [**2141-2-26**]  03:55 AM
   WBC
   18.4
   17.5
   11.8
   11.4
   9.4
   7.9
   Hct
   32.7
   30.3
   29.8
   27.9
   29.2
   31.5
   29.7
   Plt
   193
   174
   159
   186
   186
   183
   Cr
   3.2
   3.4
   3.6
   3.6
   3.6
   3.6
   3.5
   3.1
   2.6
   TropT
   0.04
   0.06
   TCO2
   35
   Glucose
   119
   131
   130
   99
   122
   98
   88
   Other labs: CK / CKMB / Troponin-T:278/5/0.06, Ca++:8.7 mg/dL, Mg++:3.1
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   80 yo F with ureter obstruction/uti s/p nephrostomy placement, COD with
   hypoxemia
   1. UTI:
    - cont abx total 14 days
   2. DHF:
   - holding lasix given worsened renal function
    - lopressor restarted
   3. COPD:
    - bipap as needed
    - standing albuterol/atrovent
   4. FEN:
    - advancing diet
   5. Aggitation:
    - tolerated ativan
   6. AFib:
    - asa, lopressor, dig
   7. Dispo:
    - family meeting tomorrow?  will need rehab placement
    - remains in ICU for now given intermittent Bipap need
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2141-2-25**] 02:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :
   Total time spent: 30 minutes
   Patient is critically ill

2141-02-27 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Cr improved
   ativan with good effect
   on bipap overnight
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-2-25**] 08:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-2-27**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-27**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.6
   HR: 63 (60 - 77) bpm
   BP: 122/46(66) {103/38(51) - 142/99(103)} mmHg
   RR: 22 (20 - 31) insp/min
   SpO2: 92%
   Heart rhythm: A Paced
                  Total In:
                                                                    200 mL
                                                                    300 mL
   PO:
                                                                    200 mL
                                                                    300 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    470 mL
   Urine:
                                                                  1,240 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,040 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather, Medium conc mask
   Ventilator mode: Standby
   Vt (Spontaneous): 365 (350 - 573) mL
   PS : 14 cmH2O
   RR (Spontaneous): 0
   PEEP: 4 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 92%
   ABG: ///31/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: moaning, alert
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, dry nares with dried blood
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Lungs: decreased BS throughout
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, cyanosis
   Neurologic: Responds to: Not assessed, Oriented (to): x1, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   183 K/uL
   9.7 g/dL
   106 mg/dL
   2.1 mg/dL
   31 mEq/L
   4.8 mEq/L
   91 mg/dL
   101 mEq/L
   143 mEq/L
   29.7 %
   7.9 K/uL
        [image002.jpg]
                             [**2141-2-21**]  08:45 PM
                             [**2141-2-22**]  03:48 AM
                             [**2141-2-22**]  05:21 AM
                             [**2141-2-22**]  12:54 PM
                             [**2141-2-23**]  04:20 AM
                             [**2141-2-23**]  03:43 PM
                             [**2141-2-24**]  03:46 AM
                             [**2141-2-25**]  05:18 AM
                             [**2141-2-26**]  03:55 AM
                             [**2141-2-27**]  03:58 AM
   WBC
   18.4
   17.5
   11.8
   11.4
   9.4
   7.9
   Hct
   32.7
   30.3
   29.8
   27.9
   29.2
   31.5
   29.7
   Plt
   193
   174
   159
   186
   186
   183
   Cr
   3.4
   3.6
   3.6
   3.6
   3.6
   3.5
   3.1
   2.6
   2.1
   TropT
   0.06
   TCO2
   35
   Glucose
   131
   130
   99
   122
   98
   88
   106
   Other labs: CK / CKMB / Troponin-T:278/5/0.06, Ca++:8.7 mg/dL, Mg++:3.1
   mg/dL, PO4:4.4 mg/dL
   Urine cx [**2-20**]: Proteus
   Assessment and Plan
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 NEPHROLITHIASIS (KIDNEY STONES)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A/P: Ms. [**Known lastname 7320**] is an 80 yo F with hypercarbic respiratory failure
   [**12-19**] COPD, OSA, acute on chronic dCHF admitted with right flank pain due
   to nephrolithiasis.
   .
   #Nephrolithiasis/UTI: s/p right perc nephrostomy tube placement by IR,
   with WBC trending down and good urine output via nephro tube.  UTI from
   admission with pansensitive proteus mirabilis.
   -continue ciprofloxacin to complete 14 day course, currently DAY [**6-30**]
   -outpt f/u with urololgy to determine long term plan
   -f/u IR recs -> nephrostomy tube functioning properly
   .
   #Acute on chronic renal failure:  Likely multifactorial [**12-19**] hypotension
   on admission, UTI/obstructive nephropathy, congestive heart
   failure/severe OSA with poor cardiac output.  Creatinine improved to
   2.6 this morning.  Have been holding diuretics since day of
   admission.
   -given stabilization of renal fxn will restart IV lasix gtt with goal 1
   liter negative
   -renally dose all meds
   .
   # Acute on chronic diastolic CHF-Cor pulmonale with 4+TR and severe RV
   dysfunction [**12-19**] long standing untreated OSA as well as COPD.  Patient
   volume overloaded on exam.
   - daily weight
   - start lasix gtt today
   - continue BB, asa, statin
   - continue BIPAP while sleeping to decrease RV dysfunction.
   .
   # Hypercarbic Respiratory Acidosis: Baseline pCO2 appears to be in the
   70
s likely [**12-19**] COPD, untreated OSA, diastolic failure.  Does well when
   on bipap while sleeping with improvement in oxygenation from O2 sats in
   the mid 80
s to low 90
s with bipap.
   - adjust BIPAP as indicated, b/l CO2 60s -70
   .
   # Atrial fibrillation: Rate controlled, has been in sinus
   -continue dig, check level given renal dysfunction
   -continue asa and lopressor
   .
   # COPD: on oxygen at home 7L
   - switch spiriva to ipratropium
   - albuterol nebs
   .
   # Hypothyroidism: continue levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  WILL PLACE PICC LINE TODAY
   22 Gauge - [**2141-2-27**] 06:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition:ICU
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   80F w/ persistent hypercarbic and hypoxemic resp failure due to a
   variety of factors including COPD, OSA, diastolic CHF admitted with
   nephrolithiasis w/ subsequent placement of nephrostomy tube.  Pt had
   been improving back toward baseline.  Team had Russian translator in
   after rounds to assess symptoms and communicate plan.  Pt per report
   from translator was feeling fine and felt at baseline at that
   point
though it should be emphasized she is at tenuous respiratory
   status even at baseline.  She was wearing facemask and tolerating mask
   ventilation at night with varied success.
   As documented in event note, patient had cardiovascular arrest post
   transfer from chair to bed.  Pacer continued to fire but patient was
   noted to be pulseless and apneic.  Pt was DNR so no resuscitation was
   performed.  Pt
s family was notified and autopsy offered.  A variety of
   etiologies possible for arrest including massive pulmonary embolus
   (though on anticoagulation), massive myocardial infarction, or massive
   stroke.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2141-2-27**] 18:47 ------